US06348474B1
2-(Acetamido)-6-bromo-3-nitropyridine
To a suspension of 2-amino-6-bromo-3-nitropyridine (23.9 g) in acetic acid (48 ml) were added acetic anhydride (48 ml) and sulfuric acid (2.9 ml), and the mixture was heated at 65° C. for 40 min. The mixture was uniform so that it quickly became a suspension containing a precipitate. After cooling, the reaction mixture was poured into cold water (480 ml) and the mixture was stirred for 30 min. The precipitate was collected by filtration and washed with water to give a crude product. The crude product was suspended in ether (60 ml) and collected by filtration to give the objective compound (27.2 g) as a pale-yellow powder.

reactant | 2-amino-6-bromo-3-nitropyridine | 23.9 g | NC1=NC(=CC=C1[N+](=O)[O-])Br | C5H4BrN3O2
reactant | acetic anhydride | 48 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 2.9 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 480 ml | O | H2O
solvent | acetic acid | 48 ml | C(C)(=O)O | C2H4O2
solvent | ether | 60 ml | CCOCC | C4H10O
product | 2-(Acetamido)-6-bromo-3-nitropyridine | 27.2 g | C(C)(=O)NC1=NC(=CC=C1[N+](=O)[O-])Br | C7H6BrN3O3
